US06225500B1
By far the most studied and useful cyclotrimerization catalysts have been of the η5-cyclopentadienyl cobalt (CpCo) family. In 1967, Yamazaki and Hagihara isolated the first cobalt cyclopentadiene triphenylphosphine complex (CpCoP(Ph)3), which when treated with a stoichiometric amount of diphenylacetylene in refluxing toluene produced hexaphenylbenzene in 8% yield after one hour. (Yamazaki and Hagihara (1967) J. Organomet. Chem. 7:22). Cobalt cyclopentadiene dicarbonyl (CpCo(CO)2) (5), a commercially available catalyst, reacts catalytically with bis-alkynes (6) in refluxing n-octane to form several bicyclic systems (7), including benzocyclobutenes (n=2) in 45% yield. (Vollhardt and Bergman (1974) J. Am. Chem. Soc 96:4996).

reactant | diphenylacetylene | C1(=CC=CC=C1)C#CC1=CC=CC=C1 | C14H10
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | hexaphenylbenzene | 8% yield | C1(=CC=CC=C1)C1=C(C(=C(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C42H30
